US07902394B2
(b) Ethyl 3-[3-((1S)-2-{[2-(2,3-dihydro-1H-inden-2-yl)-1,1-dimethylethyl]amino}-1-hydroxyethyl)-4,5-difluorophenyl]propanoate
To a solution of ethyl 3-{3,4-difluoro-5-[(1S)-1-hydroxy-2-iodoethyl]phenyl}propanoate (0.550 g, 1.43 mmol) in ethanol (2.8 mL) was added [2-(2,3-dihydro-1H-inden-2-yl)-1,1-dimethylethyl]amine (0.273 g, 1.44 mmol) and K2CO3 (0.218 g, 1.58 mmol). The reaction was heated at 90° C. for 17 h. Upon cooling, the reaction was filtered and concentrated. Column chromatography (0-12% CH3OH:CH2Cl2) provided 0.315 g (49%) of the title compound: MS (ESI) 446.0 (M+H).

reactant | ethyl 3-{3,4-difluoro-5-[(1S)-1-hydroxy-2-iodoethyl]phenyl}propanoate | 1.43 mmol, 0.550 g | FC=1C=C(C=C(C1F)[C@@H](CI)O)CCC(=O)OCC | C13H15F2IO3
reactant | [2-(2,3-dihydro-1H-inden-2-yl)-1,1-dimethylethyl]amine | 1.44 mmol, 0.273 g | C1C(CC2=CC=CC=C12)CC(C)(C)N | C13H19N
reactant | K2CO3 | 1.58 mmol, 0.218 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 2.8 mL | C(C)O | C2H6O
product | Ethyl 3-[3-((1S)-2-{[2-(2,3-dihydro-1H-inden-2-yl)-1,1-dimethylethyl]amino}-1-hydroxyethyl)-4,5-difluorophenyl]propanoate | 0.315 g, 49% | C1C(CC2=CC=CC=C12)CC(C)(C)NC[C@@H](O)C=1C=C(C=C(C1F)F)CCC(=O)OCC | C26H33F2NO3
